US08309721B2
0.267 g of 4-bromo-2-fluorobenzonitrile, 1.1 g of caesium carbonate, 0.06 g of (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphane) and 0.02 g of palladium acetate are successively added, under argon, to a solution of 0.24 g of 5-(9H-carbazol-4-yl)pyridine-2-carbonitrile in 10 ml of dioxane. The reaction mixture is refluxed for 3 hours, cooled to ambient temperature, filtered through celite and concentrated under reduced pressure. The residue is purified by silica gel chromatography, elution being carried out with a mixture of cyclohexane and ethyl acetate (85/15 by volume), so as to give 0.2 g of 5-[9-(4-cyano-3-fluorophenyl)-9H-carbazol-4-yl]pyridine-2-carbonitrile in the form of an off-white solid, the characteristics of which are the following:

reactant | 4-bromo-2-fluorobenzonitrile | 0.267 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | caesium carbonate | 1.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphane) | 0.06 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 5-(9H-carbazol-4-yl)pyridine-2-carbonitrile | 0.24 g | C1=CC=C(C=2C3=CC=CC=C3NC12)C=1C=CC(=NC1)C#N | C18H11N3
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.02 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-[9-(4-cyano-3-fluorophenyl)-9H-carbazol-4-yl]pyridine-2-carbonitrile | 0.2 g | C(#N)C1=C(C=C(C=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C=1C=CC(=NC1)C#N)F | C25H13FN4
